2148-08-12 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2148-8-11**] 01:55 PM
 MULTI LUMEN - START [**2148-8-11**] 02:37 PM
   inserted in ED
 EKG - At [**2148-8-11**] 02:40 PM
 BLOOD CULTURED - At [**2148-8-11**] 03:00 PM
   from fem MLC line
 URINE CULTURE - At [**2148-8-11**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2148-8-11**] 04:10 PM
 EKG - At [**2148-8-11**] 05:15 PM
   ? SR vs AFib
 NON-INVASIVE VENTILATION - START [**2148-8-11**] 08:30 PM
   Stopped CPAP, on NRB
   Discussion with family to establish code status: DNR, do not intubate
   during acute decompensation, family would consider intubation during
   slow decline that was felt to be primarily respiratory without other
   organ failure
   Drainage around G-tube, flush without blood.  GI recommended surgery
   consult.  Surgery pulled back tube to relieve apparent pyloric
   obstruction.  Surgery will staff in AM.
   Decreasing insulin requirements.
   Repleted K+.
   Allergies:
   Phenytoin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2148-8-11**] 02:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-12**] 03:08 AM
   Ciprofloxacin - [**2148-8-12**] 05:41 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-8-12**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-12**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 105 (97 - 125) bpm
   BP: 122/60(77) {97/49(62) - 139/112(117)} mmHg
   RR: 31 (20 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 14 (9 - 17)mmHg
   Total In:
                                                                  4,428 mL
                                                                    972 mL
   PO:
   TF:
   IVF:
                                                                  2,928 mL
                                                                    972 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    350 mL
   Urine:
                                                                     60 mL
                                                                    250 mL
   NG:
                                                                    400 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,968 mL
                                                                    622 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 657 (0 - 685) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.50/37/95.[**Numeric Identifier 143**]/26/4
   Ve: 4.1 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Gen: Elderly man appearing ill, fatigued.
   HEENT: PERRL.  Moist oral mucosa.
   Neck: JVP difficult to assess but does not appear elevated.
   Resp: Tachypneic, breath sounds present bilaterally but decreased on
   left, diffuse expiratory rhonchi, exam performed only anteriorly.
   CV: Tachycardic, regular rhythm, quiet heart sounds.
   Abdomen: Distension improved since yesterday, paucity of bowel sounds,
   no tenderness to palpation.  G-tube with new dressing in place and no
   new drainage around tube.
   Ext: Trace edema on left.
   Neuro: Answers questions appropriately.  Assessment of orientation
   limited by patient
s cooperation/ability to speak in the setting of
   respiratory status.  Moves right upper and lower extremities with good
   grip on right.  Left hemiparesis, from old CVA.
   Skin: no evidence of skin breakdown from non-invasive mask
   Labs / Radiology
   254 K/uL
   11.1 g/dL
   185 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   44 mg/dL
   108 mEq/L
   145 mEq/L
   33.4 %
   15.2 K/uL
        [image002.jpg]
                             [**2148-8-11**]  12:56 PM
                             [**2148-8-11**]  12:58 PM
                             [**2148-8-11**]  03:00 PM
                             [**2148-8-11**]  04:08 PM
                             [**2148-8-11**]  06:01 PM
                             [**2148-8-11**]  10:59 PM
                             [**2148-8-11**]  11:57 PM
                             [**2148-8-12**]  04:10 AM
   WBC
   15.2
   Hct
   38
   36
   33.4
   Plt
   254
   Cr
   1.2
   1.3
   1.2
   1.2
   TropT
   1.72
   TCO2
   28
   30
   30
   Glucose
   575
   500
   470
   210
   185
   Other labs: CK / CKMB / Troponin-T:129/32/1.72, ALT / AST:39/65, Alk
   Phos / T Bili:75/0.4, Amylase / Lipase:107/20, Lactic Acid:2.8 mmol/L,
   Albumin:3.7 g/dL, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL, free
   Ca 1.31
   cortisol 100.4
   Troponin 1.21 (down from 1.72)
   TIBC 291, Ferritin 267, TRF 224
   HbA1C PND
   PSA 0.6
   Lactate 2.2 (down from peak of 7.2)
   ABG 7.45/38/138
   U/A - SG 1.050, pH 5.0, blood mod, protein tr, glucose 1000, leuks mod
         RBC [**5-7**], WBC >50, bacteria many
   urine chemistry - Cr 25, Na 14
   fluid, peri-osteal
   -          gram stain - no PMNs, no microorganisms
   -          cytology
 no WBC, RBC, polys, lymphs, or monos
   -          glu 55, cr 0, LDH<5, amylase<3, ureaN 26
   urine cx, [**8-11**] - PND
   blood cx, [**8-11**]
 PND
   legionella urinary Ag
 PND
   CXR:  LLL pneumonia or aspiration with associated left pleural
   effusion.
   Assessment and Plan
   Impression/Plan: [**Age over 90 **] yo man with CVA, dysphagia on TF via PEG, CAD,
   prostate CA, with septic shock, cardiac ischemia and hypoxic
   respiratory failure, .
   # Septic shock: SIRS criteria (WBC, RR, HR, fever) with suspected
   sources include pneumonia with vomiting. LLL infiltrate on CT, ?RLL
   infiltrate on CXR.  U/A is consistent with infection, so urine is
   another source. Given vomiting and PEG dysfunction consider abdominal
   pathology though patient is current without abdominal pain and
   lft's/[**Doctor First Name **]/lip mostly normal.
   - volume resuscitation for CVP 8-12 (corrected for PEEP)
   - antibiotics empirically for HAP/uti: vanco, zosyn, cipro
   - monitor uop, lactate (trending down), renal function (stable), mental
   status
   - f/u urine legionella ag, blood cx, urine cx
   # Hypoxic respiratory failure: Aspiration pna vs. pulmonary edema in
   CHF (less likely by imaging) vs. capillary leak in septic shock.
   Improved with NIPPV though this is not likely to be a good long-term
   solution if pneumonia. Family would consider intubation if pure
   respiratory failure without other organ dysfunction.  Currently on
   non-rebreather with good sats.
   - Monitor respiratory status with clinical exam, ABG.
   - Restart non-invasive ventilation PRN
   - albuterol nebs prn
   - antibiotics as above
   # Acute myocardial ischemia: Suspect demand in the setting of
   myocardial demand exceeding delivery with known CAD.
   - optimize hemodynamics with ivf, sepsis treatment as above
   - Troponin trending down.  Monitor one more set of enzymes.  Monitor
   ECG.
   - aspirin 325mg daily
   - no role for anticoagulation given etiology likely fixed lesion with
   demand>supply rather than acute plaque rupture
   - statin
   - f/u TTE
   - PPV helps with preload/afterload reduction, although will use
   respiratory status to guide use of non-invasive PPV.
   # HONK: History of diabetes, likely exacerbated control given
   infection/stress, no ketones on UA but elevated AG so may lag behind.
   - insulin gtt per protocol for glycemic control
   - attempt to change drip to SC insulin today
   - hold oral hypoglycemics
   - No feeds for now.  Will consider feeding tomorrow.
   # Hypercalcemia:  Ionized Ca initially mildly elevated, now high
   normal.  Unclear etiology, given h/o prostate ca concern for metastatic
   lesion (at least one possible spinous lesion on CT abd/pelvis, await
   final read), also consider hyperparathyroidism.
   - check PTH
   - aggressive ivf resuscitation
   - follow iCa
   # PEG tube site discharge:  Initially, there was copious dark red fluid
   draining about PEG tube with bilious non-blood fluid lavaged from
   tube.  Consulted surgery at the recommendation of GI.  Surgery felt
   that the PEG was causing pyloric obstruction.  Surgery relieved the
   obstruction by pulling back on tube, with resolution of the discharge.
   Discharge now resolved.
   - monitor PEG sites
   - f/u surgery recs
   # Hypokalemia:  Will need to maintain K > 4 in the setting of patient
   myocardial ischemia.  Will need to be cautious with K+ administration
   if patient develops renal failure.
   -          repleted K+ this a.m.
   -          p.m. labs to check K
   # FEN: Hold tube feeds for now.  Nutrition consult. Replete lytes.
   # PPx: Heparin sc, bowel regimen, insulin gtt, cont. H2 blocker.
   # Access: Right femoral CVC.  PIV x 2 (20 gauge).  Request PICC to
   allow d/c of femoral line.
   # Code: After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   # Communication: Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h) [**Telephone/Fax (1) 1663**],
   (other c) [**Telephone/Fax (1) 1664**].
   # Dispo: ICU pending improvement.
   ICU Care
   Nutrition:  Nutrition consult.
   Glycemic Control:  Glucose improving.  Attempt to transition from drip
   to SC insulin today.
   Lines:  femoral + PIV x 2 (20 gauge).  Request PICC today.
   Multi Lumen - [**2148-8-11**] 02:37 PM
   20 Gauge - [**2148-8-11**] 02:39 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: Add PPI or H2 blocker.
   VAP:
   Comments:
   Communication:  Comments:  Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h)
   [**Telephone/Fax (1) 1663**], (other c) [**Telephone/Fax (1) 1664**].
   Code status:  After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   Disposition:  MICU.

2148-08-13 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2148-8-12**] 12:45 PM
 malpositioned (tip in right
   IJ)
 TRANSTHORACIC ECHO - At [**2148-8-12**] 03:05 PM
   Mild symmetric LVH.  Focal wall motion abnormalities in distal anterior
   septum and anterior walls, apex, and distal anterior wall.  Apex not
   well-visualized, but no apical thrombus seen.  EF 35%.  Increased
   LVEDP.  PA systolic HTN.  Mildly dilated ascending aorta.
 EKG - At [**2148-8-12**] 10:39 PM
   SVT last pm --- thought to likely be AFIB w RVR, to 170 --- rate slowed
   with beta-blockade
   Surgery recs [**8-12**]
 monitor drainage from [**Month/Year (2) **] site, consider upsizing
   [**Month/Year (2) **] tube if drainage persists.
   Allergies:
   Phenytoin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2148-8-11**] 02:21 PM
   Vancomycin - [**2148-8-12**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-12**] 08:27 PM
   Ciprofloxacin - [**2148-8-13**] 04:22 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2148-8-12**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2148-8-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Feels that breathing is same as yesterday.  Cough.  Otherwise no
   complaints.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-13**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 114 (91 - 125) bpm
   BP: 142/72(84) {85/50(64) - 156/91(101)} mmHg
   RR: 34 (20 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 68 Inch
    CVP: 11 (7 - 16)mmHg
   Total In:
                                                                  2,159 mL
                                                                    267 mL
   PO:
   TF:
   IVF:
                                                                  2,159 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    285 mL
   Urine:
                                                                  1,160 mL
                                                                    285 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    899 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 310 (310 - 310) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 90%
   ABG: ///24/
   Ve: 7.4 L/min
   Physical Examination
   Gen:  NAD.
   HEENT:  Pupils sluggish but symmetric and reactive.  Especially
   sluggish when light shined in right eye.  ?Right afferent defect.
   Blood in nostrils.  Moist mucus membranes with secretions in mouth.
   Neck:  JVP to angle of jaw with bed at 30 degrees.
   Resp:  Symmetric with good expansion.  Decreased breath sounds on
   left.  Diffuse expiratory rhonchi throughout.
   CV:  Irregular rhythm.  Quiet heart sounds.  No M/G/R.
   Abd:  Bowel sounds present but very hypoactive.  Distended vs. obese.
   Diffusely tender with no focal tenderness, rebound, or guarding.  [**Year (4 digits) **]
   in place with clean dressing.
   GU:  Foley in place draining yellow urine.
   Ext:  Trace edema on right.
   Lines:  PICC RUE.  Femoral line on right.
   Neuro:  Alert and oriented x 3.  Speech normal.  Attentive.
   Labs / Radiology
   224 K/uL
   9.6 g/dL
   204 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   43 mg/dL
   113 mEq/L
   146 mEq/L
   28.0 %
   15.5 K/uL
        [image002.jpg]
                             [**2148-8-11**]  12:58 PM
                             [**2148-8-11**]  03:00 PM
                             [**2148-8-11**]  04:08 PM
                             [**2148-8-11**]  06:01 PM
                             [**2148-8-11**]  10:59 PM
                             [**2148-8-11**]  11:57 PM
                             [**2148-8-12**]  04:10 AM
                             [**2148-8-12**]  06:38 AM
                             [**2148-8-12**]  04:56 PM
                             [**2148-8-13**]  03:11 AM
   WBC
   15.2
   15.5
   15.5
   Hct
   38
   36
   33.4
   32.0
   28.0
   Plt
   [**Telephone/Fax (3) 1723**]
   Cr
   1.3
   1.2
   1.2
   1.0
   1.2
   TropT
   1.72
   1.21
   0.58
   TCO2
   28
   30
   30
   27
   Glucose
   [**Telephone/Fax (3) 1724**]85
   132
   204
   Other labs: PT / PTT / INR:13.6/35.3/1.2, CK / CKMB /
   Troponin-T:71/8/0.58, ALT / AST:39/65, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:107/20, Differential-Neuts:88.2 %, Lymph:7.7 %,
   Mono:4.1 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:3.7 g/dL,
   Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Most recent ABG 7.45/38/138
   Troponin 0.58 from 1.21 (1.72 at peak)
   Hb A1C 8.7
   Urine culture:  mixed bacterial flora, consistent with contamination
   Blood cx:  PND
   Urine legionella antigen:  negative
   CT abdomen/pelvis [**8-11**]:
   1. No focal intra-abdominal fluid collection.
   2. Focal patchy consolidative changes at the left base may represent
   early pneumonia or aspiration.
   3. Insufficiency compression deformity of L3 of unknown chronicity.
   4. Multiple bilateral renal cysts.
   5. Sclerotic bone lesion at T12 felt to be bone island.
   Assessment and Plan
   [**Age over 90 **] yo man with CVA, dysphagia on TF via [**Age over 90 **], CAD, prostate CA, admitted
   to MICU with severe sepsis, cardiac ischemia, hypoxic respiratory
   failure, and drainage of fluid around [**Age over 90 **].  [**Age over 90 **] was dislodged and
   reinserted 2 days PTA.  It seems that this resulted in gastric outlet
   obstruction, with subsequent vomiting 1 day PTA, and evolving
   pneumonitis/pneumonia, likely due to aspiration.
   # Severe sepsis: SIRS criteria (WBC, RR, HR, fever) with suspected
   sources include aspiration pneumonia and/or UTI.  LLL infiltrate on CT
   and CXR.  U/A is consistent with infection, although culture shows
   contamination.  Also considered intra-abdominal pathology in Ddx given
   [**Age over 90 **] dysfunction and vomiting, although this seems resolved and
   labs/imaging reassuring.  Lactate initially elevated, though this has
   trended down.  Blood culture pending.  Legionella antigen negative.
   - Volume resuscitation: Currently volume overloaded.  Will give Lasix
   in low dose.
   - Antibiotics empirically for HAP/UTI: vanco, zosyn.  D/C Cipro.
   - monitor UOP, renal function (stable), mental
   status
   - f/u blood cx
   - repeat U/.A, UC, although culture may be low yield because patient is
   on antibiotics.
   # Hypoxic respiratory failure:  Aspiration PNA/pneumonitis vs.
   pulmonary edema in CHF.  With vascular congestion and LLL infiltrate on
   imaging, both processes are likely at play.  Have used NIPPV to support
   ventilation, although this is not a good option because of respiratory
   secretions, history of vomiting, and aspiration risk.  Family would
   consider intubation if pure respiratory failure without other organ
   dysfunction.  Currently off NIPPV and satting well.
   - Monitor respiratory status with clinical exam, ABG.
   - Supplemental O2 via face mask
   - D/C NIPPV
   - Lasix 20 mg IV x 1 to relieve volume overload.  Check p.m. lytes.
   - d/c albuterol due to SVT
   - antibiotics as above
   # Afib with RVR
 Patient was tachycardic to 170s but was
   hemodynamically stable.  The tachycardia responded well to beta
   blockade, although the patient
s SBP fell to 80s, which resolved
   quickly.
   -          Will not use standing beta blockade at this time due to risk
   of hypotension, but can use PRN if patient develops RVR.
   -          Check TSH
   # Acute myocardial ischemia: Suspect demand in the setting of
   myocardial demand exceeding delivery with known CAD.  Troponins have
   trended town (most recently 0.58, down from peak 1.72).  TTE showed
   focal wall motion abnormalities that are likely from old MI, although
   no old echo is available for comparison.
   - relieve volume overload with Lasix
   - monitor EKG
   - contact patient
s cardiologist/PCP to obtain old echo records
   - aspirin 325mg daily
   - statin
   - no role for anticoagulation given etiology likely fixed lesion with
   demand>supply rather than acute plaque rupture
   - replete K (cautiously given risk of renal dysfunction in the setting
   of severe sepsis) with goal K > 4.0 to reduce risk of arrythmia
   # Hyperglycemia:  History of diabetes, likely exacerbated by
   infection/stress.  Blood sugars elevated to 500s-600s on admission,
   controlled with insulin drip, and then with lantus and ISS.  BS 108-244
   during past 24 hours, with patient off insulin drip since yesterday
   afternoon.
   - monitor blood sugars
   - d/c insulin drip
   - tighten sliding scale
   - holding oral hypoglycemics that patient takes at home
   # Hypercalcemia:  Ionized Ca initially mildly elevated, then high
   normal.  Unclear etiology, given h/o prostate ca concern for metastatic
   lesions.  Bony abnormality on abdominal CT read as bony island.  Also
   consider hyperparathyroidism.
   - repeat iCa with VBG
   # [**Age over 90 **] tube dysfunction:  Initially, there was copious dark red fluid
   draining about [**Age over 90 **] tube with bilious non-bloody fluid lavaged through
   lumen of tube.  Consulted surgery at the recommendation of GI.  Surgery
   felt that the [**Age over 90 **] was causing gastric outlet obstruction.  Surgery
   relieved the obstruction by pulling back on tube, with resolution of
   the discharge.  Discharge now resolved.
   - monitor [**Age over 90 **] site
   - f/u surgery recs
   - ask GI/surgery if it is okay to administer medications/tube feeds via
   tube
   # Anemia:  Hct 28.0, down from 32.0 yesterday, and 41.3 on admission.
   This could be from hemodilution given large fluid resuscitation and
   current fluid overload.  However, bleeding remains in differential,
   especially given problems with [**Name2 (NI) **] tube.
   -          f/u p.m. hematocrit
   -          Guaiac stools
   # IV access problems:  [**Name2 (NI) **] femoral line infection risk.  PICC
   malpositioned.
   -          d/c femoral line
   -          reposition PICC (IR)
   # Code: After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   # Communication: Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h) [**Telephone/Fax (1) 1663**],
   (other c) [**Telephone/Fax (1) 1664**].
   # Dispo: ICU pending improvement.
   ICU Care
   Nutrition:  NPO.  Consult GI/surgery regarding use of [**Telephone/Fax (1) **].  Consult
   nutrition for recs.
   Glycemic Control:  see
hyperglycemia
, above
   Lines:
   Multi Lumen - [**2148-8-11**] 02:37 PM
   PICC Line - [**2148-8-12**] 12:45 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  see above
   Code status:  DNR / DNI.  After lengthy discussions with son and HCP
   [**Name (NI) 1412**], patient over-all DNR/DNI and in the event of an emergency with
   rapid/acute deterioration would not resuscitate him or intubate him,
   however, if slow decline and not tolerating NIPPV family would consider
   trial intubation.
   Disposition:  To MICU for now given multiple problems, but likely
   call-out tomorrow.
   14:34

2148-08-14 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2148-8-13**] 04:00 PM
   inserted in ED
   G/GJ/GI tube check port
 Contrast opacifies stomach and proximal
   jejunum.  No definite extra-gastric extravasation.
   PICC repositioned into subclavian by IV team.
   Nutrition recs:  When able to resume feeds, start Nutren Pulmonary at
   15 mL/hr to increase 10 mL Q4 to goal 45 mL/hour.  MVI/mineral
   supplement via tube feed.  Check chem 10 daily.  Residual check Q4H,
   hold if >150 mL.
   [**Hospital 328**] rehab and local cardiologist contact[**Name (NI) **] to obtain old echo
   records:  No available echo although could potential obtain records
   stored in [**State 1198**].
   Allergies:
   Phenytoin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2148-8-11**] 02:21 PM
   Ciprofloxacin - [**2148-8-13**] 04:22 AM
   Vancomycin - [**2148-8-13**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2148-8-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2148-8-14**] 03:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-14**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 112 (81 - 114) bpm
   BP: 128/81(90) {114/47(63) - 148/81(95)} mmHg
   RR: 27 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 16 (11 - 17)mmHg
   Total In:
                                                                  1,000 mL
                                                                    221 mL
   PO:
   TF:
   IVF:
                                                                    940 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,408 mL
                                                                    255 mL
   Urine:
                                                                  1,408 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Gen:  NAD.  Coughing up copious secretions.
   HEENT:  Anicteric.  PERRL.  Moist oral mucosa with copious secretions.
   Resp:  Vesicular breath sounds on right, with decreased breath sounds
   at right base.  Diffuse expiratory rhonchi throughout left lung field.
   CV:  Tachycardic.  Irregular rhythm (frequent PACs and PVCs on
   monitor).  Normal s1 and s2.  No M/G/R.
   Abd:  Bowel sounds present but very quiet and hypoactive.  Distended.
   Non-tender.
   Ext:  Skin breakdown on LUE (elbow and hand), with no evidence of
   infection.  Trace LLE edema.  Radial pulses 2+ bilaterally.
   Neuro:  Alert.  Oriented to
[**Hospital3 **]
.  Refuses to answer
   further questions regarding orientation to time.  Moves right upper and
   lower extremities.  Weak on left, chronic.
   Lines:  Foley in place.  Right PICC.  Right femoral line pulled
   yesterday, with clean bandage over site.
   Labs / Radiology
   228 K/uL
   9.2 g/dL
   179 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   40 mg/dL
   115 mEq/L
   148 mEq/L
   28.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2148-8-11**]  04:08 PM
                             [**2148-8-11**]  06:01 PM
                             [**2148-8-11**]  10:59 PM
                             [**2148-8-11**]  11:57 PM
                             [**2148-8-12**]  04:10 AM
                             [**2148-8-12**]  06:38 AM
                             [**2148-8-12**]  04:56 PM
                             [**2148-8-13**]  03:11 AM
                             [**2148-8-13**]  03:42 PM
                             [**2148-8-14**]  01:30 AM
   WBC
   15.2
   15.5
   15.5
   15.7
   Hct
   38
   36
   33.4
   32.0
   28.0
   28.4
   28.1
   Plt
   [**Telephone/Fax (3) 1768**]28
   Cr
   1.2
   1.2
   1.0
   1.2
   1.2
   1.0
   TropT
   1.21
   0.58
   TCO2
   28
   30
   30
   27
   Glucose
   [**Telephone/Fax (2) 1769**]
   Other labs: PT / PTT / INR:13.6/35.3/1.2, CK / CKMB /
   Troponin-T:71/8/0.58, ALT / AST:39/65, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:107/20, Differential-Neuts:88.2 %, Lymph:7.7 %,
   Mono:4.1 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:3.7 g/dL,
   Ca++:10.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Vanco trough:  PND
   VBG: 7.43/40/43
   Free Ca: 1.35
   TSH 1.2
   U/A:  SG 1.022  pH 5.0  Leuk Lg  Blood Sm  Prot Tr  RBC 3  WBC 38  Bact
   few  Yeast Occ  Epi <1
   MRSA screen: PND
   Blood cx: PND
   Urine cx: PND
   Assessment and Plan
   [**Age over 90 **] yo man with CVA, dysphagia on TF via [**Age over 90 **], CAD, prostate CA, admitted
   to MICU with severe sepsis, cardiac ischemia, hypoxemic respiratory
   failure, and [**Age over 90 **] dysfunction.  [**Age over 90 **] was dislodged and reinserted 2 days
   PTA.  It seems that this resulted in gastric outlet obstruction, with
   subsequent vomiting 1 day PTA, and evolving pneumonitis/pneumonia,
   likely due to aspiration.
   # Pneumonia:  Clinical exam and imaging consistent with LLL pneumonia,
   likely due to aspiration.  Fever has resolved, although leukocytosis to
   15 persists.  Patient initially met criteria for severe sepsis, with
   elevated lactate and signs of end-organ dysfunction involving cardiac
   ischemia.  This resolved with volume resuscitation.  Renal function
   stable.  Blood cultures pending.  Legionella urinary antigen negative.
   -          abx: vanco, zosyn
 14-day course
   -          f/u blood cx
   -          monitor UOP, renal function, mental status.
   # ?Urinary tract infection:  Two urinalyses have been consistent with
   infection, although the first urine culture was suggestive of
   contamination.  Repeat UC sent, although this may be low yield in the
   setting of broad spectrum antibiotics.
   - abx: vanco, zosyn, to also cover for HAP.
   - f/u urine culture
   # Hypoxemic respiratory distress:  Aspiration PNA/pneumonitis vs.
   pulmonary edema in CHF.  With vascular congestion and LLL infiltrate on
   imaging, both processes are likely at play.  Avoiding NIPPV in the
   setting of copious respiratory secretions, history of vomiting, and
   aspiration risk.  DNR/DNI, although family would consider intubation if
   pure respiratory failure without other organ dysfunction.
   - Monitor respiratory status with clinical exam, oximetry, ABG.
   - Supplemental O2 via face mask/nasal cannula as tolerated
   - Chest PT
   - antibiotics as above
   -diuresis as below
   # Volume overload:  Patient has distended jugular veins and vascular
   congestion on CXR, although this has improved since yesterday.  Gave
   Lasix 20 mg IV yesterday, with 400 cc diuresis.
   - Repeat Lasix today if blood pressure tolerates.
   # Tachycardia
 On the evening of [**6-11**], patient was tachycardic to 170s
   but was hemodynamically stable.  The tachycardia responded well to beta
   blockade, although the patient
s SBP fell to 80s, which resolved
   quickly.  Since then, the patient has been intermittently tachycardic
   to the 120s to 130s, and normotensive to mildly hypotensive.  Rhythm is
   ectopic atrial tachycardia vs. Afib.  TSH wnl.
   -          Metoprolol 2.5 mg Q4H.
   -          Monitor heart rate, rhythm, and BP.
   # Acute myocardial ischemia: Suspect demand in the setting of
   myocardial demand exceeding delivery with known CAD.  Troponins have
   trended down (most recently 0.58, down from peak 1.72).  TTE showed
   focal wall motion abnormalities that are likely from old MI, although
   no old echo is available for comparison.
   - monitor EKG
   - aspirin 325mg daily
   - statin
   - B-blocker
   - diuresis to reduce preload
   - no role for anticoagulation given etiology likely fixed lesion with
   demand>supply rather than acute plaque rupture
   # [**Date Range **] tube dysfunction:  Initially, there was copious dark red fluid
   draining about [**Date Range **] tube with bilious non-bloody fluid lavaged through
   lumen of tube.  Consulted surgery at the recommendation of GI.  Surgery
   felt that the [**Date Range **] was causing gastric outlet obstruction.  Surgery
   relieved the obstruction by pulling back on tube, with resolution of
   the discharge.  During the past 24 hours, there has been bloody
   discharge around the tube.  A [**Date Range **] tube study yesterday showed contrast
   opacification of stomach and proximal jejunum.
   - holding all [**Date Range **] feeds/meds for now
   - replace [**Date Range **] (interventional radiology)
   - if bleeding persists after replacing [**Date Range **], consult surgery for further
   evaluation/treatment.
   - Check p.m. Hct in the setting of bleeding
   # Hyperglycemia:  The patient has known diabetes, likely exacerbated by
   infection/stress.  Blood sugars elevated to 500s-600s on admission,
   controlled with insulin drip, and then with lantus and ISS.  BS 200-275
   during past 24 hours.  Received 21 units regular insulin plus lantus (5
   units or 10 units), during past 24 hours.
   - monitor blood sugars
   - continue ISS
   - increase lantus this evening pending today
s blood sugars and insulin
   requirements
   - holding oral hypoglycemics that patient takes at home
   # Hypernatremia:  Na 148, stable from yesterday.  Free water deficit
   1.5-2 liters.  Cannot give free water via [**Date Range **] at this time due to [**Date Range **]
   dysfunction.  Patient currently receiving K Phos in D5W, which is a
   source of free water.  Will need to replete free water slowly due to
   concern about volume overload.
   -          D5W 500 mL at 50 cc/hour, to begin after K Phos repletion is
   complete.
   -          Check p.m. lytes
   # Hypophosphatemia:  Phos 1.8.  Likely due to poor nutrition, GI losses
   due to tube dysfunction, with possible contribution of respiratory
   alkalosis and treatment of hyperglycemia.
   -          repleting with IV K Phos
   -          p.m. lytes
   # Hypercalcemia:  Ionized Ca mildly elevated.  Unclear etiology, given
   h/o prostate ca concern for metastatic lesions.  Bony abnormality on
   abdominal CT read as bony island.  Also consider hyperparathyroidism.
   - no further work-up at this time
   # Anemia:  Hct stable at 28.0 during past 24 hours, down from 41 on
   admission.  Iron 33, TIBC 291, Ferritin 267.  The patient
s acute
   anemia is likely due to hemodilution given large fluid resuscitation
   and current fluid overload.  However, will continue to follow Hct
   closely given bleeding around [**Date Range **] tube.
   -          f/u p.m. hematocrit
   -          Guaiac stools
   # Code: After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   # Communication: Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h) [**Telephone/Fax (1) 1663**],
   (other c) [**Telephone/Fax (1) 1664**].
   # Dispo: ICU pending improvement.
   ICU Care
   Nutrition:  Appreciate nutrition recs.  Holding off on tube feeds until
   [**Telephone/Fax (1) **] dysfunction is resolved.
   Glycemic Control:  See
hyperglycemia
 above.
   Lines:  PICC RUE, repositioned yesterday.
   PICC Line - [**2148-8-12**] 12:45 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  Change ranitidine to IV given inability to feed via [**Year (4 digits) **].
   VAP:
   Comments:
   Communication:  Comments:  see above
   Code status: DNR / DNI.  After lengthy discussions with son and HCP
   [**Name (NI) 1412**], patient over-all DNR/DNI and in the event of an emergency with
   rapid/acute deterioration would not resuscitate him or intubate him,
   however, if slow decline and not tolerating NIPPV family would consider
   trial intubation.
   Disposition:  To MICU for now.

2148-08-15 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   IR-guided PEG tube replacement, with larger size.  OK to use, but not
   to manipulate.  Procedure was delayed [**12-30**] respiratory instability, done
   at 5:00PM
   Diuresis held for low blood pressures yesterday p.m.  Lasix given at 7
   a.m.
   Metoprolol increased for SVT episodes.  Changed to P.O.
   PO meds restarted.
   Nutrition recs: MVI/mineral via TF.  When okay to resume feeds rec
   Nutren Pulmonary at 15 mL/hr to increase by 10 mL Q4H to goal 45 mL/hr,
   flush with 200 mL H20 Q6H.  Adjust insulin regimen PRN with resumption
   of feeds.  Check PTH [**12-30**] elevated Ca.
   Patient had BM, guaiac-positive, now with diarrhea.
   Patient slept poorly.
   Patient says breathing is the same this a.m.  Developed nausea and mild
   abdominal pain just prior to rounds.  Otherwise, no complaints.
   Allergies:
   Phenytoin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-8-13**] 04:22 AM
   Vancomycin - [**2148-8-14**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-15**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2148-8-14**] 12:56 PM
   Heparin Sodium (Prophylaxis) - [**2148-8-14**] 05:30 PM
   Famotidine (Pepcid) - [**2148-8-14**] 05:53 PM
   Metoprolol - [**2148-8-14**] 07:02 PM
   Insulin - Regular - [**2148-8-14**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-15**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.3
C (95.6
   HR: 96 (77 - 131) bpm
   BP: 116/65(75) {90/41(57) - 149/89(102)} mmHg
   RR: 18 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,701 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                  1,701 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    270 mL
   Urine:
                                                                  1,175 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    526 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen:  NAD.  Appears comfortable.  Not coughing during exam.
   HEENT:  Anicteric.  PERRL.
   Neck:  JVP elevated to angle of jaw.
   Resp:  Vesicular breath sounds on right, with decreased breath sounds
   at right base.  Diffuse expiratory rhonchi throughout left lung field.
   CV:  Tachycardic.  Irregular rhythm (atrial tachycardia on monitor).
   Distant heart sounds.
   Abd:  Hypoactive bowel sounds, increased since yesterday.  Distended.
   Non-tender on exam before rounds but mild diffuse tenderness of exam
   during rounds.
   Ext:  Dressing in place of LUE.  Trace LLE edema, increased relative to
   yesterday.
   Neuro:  Alert.  Oriented to
hospital
 and
[**Hospital3 **]
.  Patient
   refuses to answer questions about orientation to time.  Patient does
   not cooperate with formal testing for attentiveness.  Moves right upper
   and lower extremities.  Weak on left, chronic.
   Lines:  Foley in place.  Right PICC.
   Labs / Radiology
   217 K/uL
   9.1 g/dL
   147 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   36 mg/dL
   114 mEq/L
   148 mEq/L
   26.6 %
   15.2 K/uL
        [image002.jpg]
                             [**2148-8-11**]  11:57 PM
                             [**2148-8-12**]  04:10 AM
                             [**2148-8-12**]  06:38 AM
                             [**2148-8-12**]  04:56 PM
                             [**2148-8-13**]  03:11 AM
                             [**2148-8-13**]  03:42 PM
                             [**2148-8-14**]  01:30 AM
                             [**2148-8-14**]  02:52 PM
                             [**2148-8-14**]  10:21 PM
                             [**2148-8-15**]  04:00 AM
   WBC
   15.2
   15.5
   15.5
   15.7
   15.2
   Hct
   33.4
   32.0
   28.0
   28.4
   28.1
   26.6
   26.6
   Plt
   [**Telephone/Fax (3) 1768**]28
   217
   Cr
   1.2
   1.2
   1.0
   1.2
   1.2
   1.0
   1.0
   1.1
   1.0
   TropT
   1.21
   0.58
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 1813**]
   Other labs: PT / PTT / INR:13.5/35.0/1.2, CK / CKMB /
   Troponin-T:71/8/0.58, ALT / AST:39/65, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:107/20, Differential-Neuts:88.2 %, Lymph:7.7 %,
   Mono:4.1 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:3.7 g/dL,
   Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Vanco trough 15.4
   Imaging: CXR:  Pulmonary vascular congestion improved relative to
   yesterday.  Infiltrate and left base still present but appears
   improved.  Hazy diaphragmatic border at right base.
   Abd: G-tube ready for use.
   Microbiology:  Repeat urine cx: no growth.
   Blood cx:  PND
   MRSA screen:  PND
   Legionella urinary antigen (-)
   Assessment and Plan
   [**Age over 90 **] yo man with CVA, dysphagia on TF via PEG, CAD, prostate CA, admitted
   to MICU with PEG dysfunction, hypoxemic respiratory failure, cardiac
   ischemia, elevated lactate, meeting criteria for severe sepsis.  PEG
   was dislodged and reinserted 2 days PTA.  It seems that this resulted
   in gastric outlet obstruction, with subsequent vomiting 1 day PTA, and
   evolving pneumonitis/pneumonia, complicated by severe sepsis syndrome.
   # Pneumonia/severe sepsis:  Clinical exam and imaging consistent with
   LLL pneumonia, likely due to aspiration.  Fever has resolved, although
   leukocytosis to 15 persists.  Patient initially met criteria for severe
   sepsis, with elevated lactate and signs of end-organ dysfunction
   involving cardiac ischemia.  Renal function stable.  Blood cultures
   pending.  Legionella urinary antigen negative.
   -          abx: vanco, zosyn
 14-day course
   -          f/u blood cx
   -          monitor vital signs, UOP, renal function, mental status.
   # ?Urinary tract infection:  Two urinalyses have been consistent with
   infection, although the first urine culture was suggestive of
   contamination, and the second culture, sent after broad spectrum
   antibiotics had been initiated, was negative.
   - abx: vanco, zosyn, to also cover for HAP.
   # Hypoxemic respiratory distress:  Contributing factors include
   aspiration PNA/pneumonitis and pulmonary edema from CHF.  Satting well
   on face mask.  Avoiding NIPPV in the setting of copious respiratory
   secretions, history of vomiting, and aspiration risk.  DNR/DNI,
   although family would consider intubation if pure respiratory failure
   without other organ dysfunction.
   - Monitor respiratory status with clinical exam, oximetry, ABG.
   - Supplemental O2 via face mask/nasal cannula as tolerated
   - Chest PT
   - antibiotics as above
   - diuresis as below
   # Congestive heart failure:  Patient has distended jugular veins and
   vascular congestion on CXR, although this has improved since
   yesterday.  The patient was positive 500 mL yesterday despite diuresis
   with IV Lasix.
   - Diuresis with IV Lasix as blood pressure tolerates, with goal
   diuresis 500 cc negative today.
   # Tachycardia
 On the evening of [**6-11**], patient developed SVT to 170s
   but was hemodynamically stable.  The tachycardia responded well to IV
   metoprolol.  Since then, the patient has been intermittently
   tachycardic to the 120s to 130s, with atrial tachycardia on the
   monitor.  B-blockade was not initiated on [**6-12**] due to concern about
   hypotension.  However, on [**6-13**], the patient was able to tolerate
   metoprolol, with improved rate control.  The etiology of the
   tachycardia is likely related to infection and recent cardiac ischemia.
   -          Metoprolol 25 mg PO Q6H.
   -          Monitor heart rate, rhythm, and BP.
   # NSTEMI: Suspect demand in the setting of myocardial demand exceeding
   delivery with known CAD.  Troponins have trended down (most recently
   0.58 on [**6-11**], down from peak 1.72 on [**6-10**]).  TTE showed focal wall
   motion abnormalities that may be from old MI, although no old echo is
   available for comparison.  EKG today [**6-14**] depressions in I
   and V3-V6.
   - monitor EKG
   - supplemental O2
   - aspirin 325mg daily
   - statin
   - B-blocker
   - diuresis to reduce preload
   - Reconsidered anti-coagulation after seeing today
s EKG.  However,
   decided not to initiate anti-coagulation at this time due to risk of GI
   bleeding.
   # PEG tube dysfunction:  Initially, there was copious dark red fluid
   draining about PEG tube with bilious non-bloody fluid lavaged through
   lumen of tube.  Consulted surgery, who felt that the PEG was causing
   gastric outlet obstruction.  Surgery relieved the obstruction by
   pulling back on tube, with resolution of the discharge.  On [**6-12**] and
   [**6-13**], there was bloody discharge around the tube.  The tube was
   replaced by interventional radiology on the evening of [**6-13**].  Per IR,
   it is okay to use the tube but should not manipulate.
   - tube feeds per nutrition recs
   - can give meds via PEG
   - appreciate IR recommendations
   - if PEG tube dysfunction recurs, consult surgery/IR for further
   evaluation/treatment.
   - Check p.m. Hct in the setting of bleeding
   # Anemia:  Hct stable 26.6, down from 28.0 yesterday, and 41 on
   admission.  The etiology of patient
s anemia is likely a combination of
   hemodilution and bleeding from PEG site.  Will continue to follow Hct
   and vital signs closely for evidence of active bleeding.  Transfusion
   not indicated at this time.
   -          f/u p.m. hematocrit
   -          Guaiac stools
   # Hyperglycemia:  The patient has known diabetes, likely exacerbated by
   infection/stress.  Blood sugars elevated to 500s-600s on admission,
   controlled with insulin drip, and then with lantus and ISS.  BS 140s to
   340s during past 24 hours.  Received 18 units of regular insulin plus
   10 units of lantus during past 24 hours.
   - monitor blood sugars QID
   - Given hyperglycemia and resumption of tube feeds will tighten sliding
   scale and increase lantus to 15 units QHS.
   - holding patient
s home oral hypoglycemics while in hospital
   # Hypernatremia:  Na 148, stable from yesterday.  Free water deficit
   1.5-2 liters.  Will replete free water via PEG.
   -          Free water flushes via PEG 200 mL Q4H.
   -          Check p.m. lytes
   # Hypophosphatemia:  Phos 2.6.
   -          repleting with Neutraphos via PEG
   -          p.m. lytes
   # Hypercalcemia:  Ionized Ca mildly elevated.  Unclear etiology, given
   h/o prostate ca concern for metastatic lesions.  Bony abnormality on
   abdominal CT read as bony island.  Also consider hyperparathyroidism.
   -          No further work-up at this time, but make sure patient
   receives appropriate follow-up care.
   # Code: After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   # Communication: Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h) [**Telephone/Fax (1) 1663**],
   (other c) [**Telephone/Fax (1) 1664**].
   # Dispo: ICU pending improvement.
   ICU Care
   Nutrition:  Tube feeds per nutrition recs.
   Glycemic Control:  See
hyperglycemia
, above.
   Lines:
   PICC Line - [**2148-8-12**] 12:45 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: change H2 blocker to PO
   VAP:
   Comments:
   Communication:  Comments:  see above.
   Code status: DNR / DNI.  After lengthy discussions with son and HCP
   [**Name (NI) 1412**], patient over-all DNR/DNI and in the event of an emergency with
   rapid/acute deterioration would not resuscitate him or intubate him,
   however, if slow decline and not tolerating NIPPV family would consider
   trial intubation.
   Disposition:  MICU
   13:06

2148-08-16 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient with episode of hyptoension to SBP high 70s around 11pm - EKG
   unchanged, pan-cultured, CXR largely unchanged, tube feeds held, bolus
   500 LR given, stat Hct --- 1u pRBCs
   Metoprolol changed to [**Hospital1 7**].
   Diuresis with Lasix 20 mg IV at 12:33 a.m.
   MRSA screen positive
 Patient on contact precautions.
   [**Name2 (NI) 54**] patient, breathing is improved today.  No complaints.
   Allergies:
   Phenytoin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-15**] 08:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-16**] 01:47 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2148-8-15**] 04:34 PM
   Heparin Sodium (Prophylaxis) - [**2148-8-16**] 12:18 AM
   Furosemide (Lasix) - [**2148-8-16**] 01:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-16**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 72 (66 - 112) bpm
   BP: 120/53(69) {81/35(43) - 131/81(87)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 68 Inch
           Total In:
                                                                  3,411 mL
                                                                    580 mL
   PO:
           TF:
                                                                    126 mL
   IVF:
                                                                  2,225 mL
                                                                    130 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,656 mL
                                                                  1,060 mL
   Urine:
                                                                  1,656 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,755 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen:  NAD.  Sleepy.  Not coughing during exam.
   HEENT:  Anicteric.  PERRL.  Moist oral mucosa.
   Resp:  Diffuse rhonchi bilaterally, L>R.
   CV:  Irregular rhythm.  Normal rate.  Distant heart sounds.
   Abd:  Bowel sounds not heard.  Distended.  Non-tender.  PEG in place
   with clean dressing.
   Ext:  Dressing in place of left wrist.  Skin breakdown on left elbow.
   Trace left extremity edema.
   Neuro:  More sleepy than usual.  Speech sparse but normal.  Says he
   does not know where he is, but correctly identifies
hospital
 from
   multiple choice.  Cannot state name of hospital.  Correctly identifies
[**Month (only) 539**]
 as month from multiple choice.  Cannot identify year.  Can
   state his name and his son
s name.  Moves right upper and lower
   extremities.  Very weak on left, chronic.
   Lines:  Foley in place with yellow urine in bag.  Right PICC.  Mushroom
   catheter with dark stool in bag ?melena.
   Labs / Radiology
   201 K/uL
   9.3 g/dL
   119 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   28 mg/dL
   109 mEq/L
   140 mEq/L
   28.1 %
   14.3 K/uL
        [image002.jpg]
   THESE LABS ARE OLD
NEW LABS WERE DRAWN AT 6AM AND DO NOT REFLECT PRBCS
                             [**2148-8-12**]  06:38 AM
                             [**2148-8-12**]  04:56 PM
                             [**2148-8-13**]  03:11 AM
                             [**2148-8-13**]  03:42 PM
                             [**2148-8-14**]  01:30 AM
                             [**2148-8-14**]  02:52 PM
                             [**2148-8-14**]  10:21 PM
                             [**2148-8-15**]  04:00 AM
                             [**2148-8-15**]  03:50 PM
                             [**2148-8-15**]  09:56 PM
   WBC
   15.5
   15.7
   15.2
   Hct
   28.0
   28.4
   28.1
   26.6
   26.6
   23.6
   Plt
   [**Telephone/Fax (3) 1846**]
   Cr
   1.0
   1.2
   1.2
   1.0
   1.0
   1.1
   1.0
   1.0
   TropT
   0.58
   TCO2
   27
   Glucose
   132
   204
   208
   179
   [**Telephone/Fax (2) 1847**]62
   Other labs: PT / PTT / INR:13.5/35.0/1.2, CK / CKMB /
   Troponin-T:71/8/0.58, ALT / AST:39/65, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:107/20, Differential-Neuts:81 %, Lymph:10.7 %,
   Mono:4.3 %, Eos:3.9%, Baso:0.1%, Lactic Acid:2.2 mmol/L, Albumin:3.7
   g/dL, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Sputum culture [**8-15**]: contaminated with upper respiratory secretions
   Blood cultures x 2 [**8-15**]:  PND
   Blood culture [**8-11**]:  PND
   MRSA screen: positive
   CXR:  Volume overload, worsened.  LLL infiltrate.
   Assessment and Plan
   [**Age over 90 **] yo man with CVA, dysphagia on TF via PEG, CAD, prostate CA, admitted
   to MICU with PEG dysfunction, hypoxemic respiratory failure, cardiac
   ischemia, elevated lactate.  PEG was dislodged and reinserted 2 days
   PTA.  It seems that this resulted in gastric outlet obstruction, with
   subsequent vomiting 1 day PTA, and evolving pneumonia, complicated by
   severe sepsis and cardiac ischemia.  Infection improving.  Active
   issues include pneumonia, volume overload, intermittent hypotension,
   cardiac ischemia, and possible slow GI bleed.
   # Hypotension:  Patient developed transient hypotension to SBP mid to
   upper 70s yesterday evening [**8-15**] at around 11 p.m.  Urine output
   decreased to <30cc/hr for 2 hours, then picked up again.  DDx includes
   intravascular volume depletion, recurrent sepsis, cardiac dysfunction,
   and beta-blockade.  BP responsive to fluid + blood.  Decreased
   metoprolol to 25 mg [**Hospital1 7**], with holding parameters.  Currently
   normotensive.
   -          Consider untreated C. diff infection as explained below
   under
diarrhea
   -          Treat recurrent hypotension cautiously with blood or IVF.
   However, try to avoid volume overload, as this could compromise
   patient
s respiratory status.
   .
   # Volume overload:  Patient has significant vascular congestion on CXR
   and worsened rhonchi on exam.  The patient was positive 1755 mL
   yesterday.  Could not diurese yesterday due to low BP, but today, BP
   appears to leave room for cautious diuresis.
   -          Diuresis with Lasix 20 mg IV as blood pressure tolerates,
   with goal diuresis 1 L negative today.
   -          Check p.m. lytes.
   -          Give KCl 20 mg via PEG in setting of K 3.9 and anticipated
   drop in K with Lasix.
   .
   # Anemia:  Consider GI bleeding in the setting of slowly falling Hct,
   guaiac-positive stools, and recent dysfunction/manipulation of PEG
   tube.  Transfused 1 unit yesterday for Hct 23.6 with good response in
   Hct.
   -          Check p.m. hematocrit.
   -          Check coags.
   -          Transfuse for Hct < 25.
   -          Maintain active type and screen.
   -          Change H2 blocker to IV PPI in the setting of possible
   active GI bleeding.
   -          Attempt conservative management.  However, consider GI
   consult if Hct continue to fall.
   .
   # PEG tube dysfunction:  Initially, there was copious dark red fluid
   draining about PEG tube with bilious non-bloody fluid lavaged through
   lumen of tube.  Consulted surgery, who felt that the PEG was causing
   gastric outlet obstruction.  Surgery relieved the obstruction by
   pulling back on tube, with resolution of the discharge.  On [**6-12**] and
   [**6-13**], there was bloody discharge around the tube.  The tube was
   replaced by interventional radiology on the evening of [**6-13**].  Per IR,
   it is okay to use the tube but should not manipulate.  Began tube feeds
   yesterday [**6-14**], but stopped feeds in the setting of hypotension.  Will
   restart feeds today despite concern about GI bleeding.
   - tube feeds per nutrition recs
   - can give meds via PEG
   - if PEG tube dysfunction recurs, consult surgery/IR for further
   evaluation/treatment.
   - Evaluate possible GI bleeding as explained under
anemia
   .
   # Diarrhea:  The patient has had diarrhea, guiaic positive, for around
   3 days now.  In the setting of broad-spectrum antibiotics, will need to
   r/o C. diff.  Blood in stool most likely due to G-tube
   dysfunction/repositioning.
   -          Test for C. diff.
   .
   # Hypoxemic respiratory distress:  Contributing factors include
   aspiration PNA and pulmonary edema from CHF.  Satting well on face
   mask.  Avoiding NIPPV in the setting of copious respiratory secretions,
   history of vomiting, and aspiration risk.  DNR/DNI, although family
   would consider intubation if pure respiratory failure without other
   organ dysfunction.
   - Monitor respiratory status
   - Supplemental O2 via face mask/nasal cannula as tolerated
   - Chest PT
   - antibiotics as below
   - diuresis as above
   .
   # Pneumonia:  Clinical exam and imaging consistent with LLL pneumonia,
   likely due to aspiration.  Fever has resolved, with leukocytosis
   slightly improved today at 14.3.  Patient initially met criteria for
   severe sepsis, with elevated lactate and signs of end-organ dysfunction
   involving cardiac ischemia.  Legionella urinary antigen negative.
   Sputum culture [**8-15**] had extensive contamination with upper respiratory
   secretions.  Blood cultures x 3 PND.
   -          abx: vanco, zosyn
 14-day course
   -          f/u blood cx x 3
   -          monitor vital signs, UOP, renal function, mental status.
   .
   # ?UTI:  Three urinalyses have had significant numbers of WBCs and
   RBCs, although the first urine culture was suggestive of contamination,
   and the second culture, sent after broad spectrum antibiotics had been
   initiated, was negative.  A third urine culture was sent yesterday
   evening [**8-15**] in the setting of hypotension.
   -          abx: vanco, zosyn, to also cover for HAP.
   -          f/u urine cx
   .
   # Tachycardia
 The patient has had SVT (likely atrial tachycardia)
   with HR as high as 170, although well-controlled with metoprolol
   recently.  Will decrease dose of metoprolol given recent hypotension.
   -          Metoprolol 25 mg PO BID.
   -          Monitor heart rate, rhythm, and BP.
   .
   # Acute cardiac ischemia: Suspect demand ischemia in the setting of
   high demand with known CAD.  Troponins have trended down (most recently
   0.58 on [**6-11**], down from peak 1.72 on [**6-10**]).  TTE showed focal wall
   motion abnormalities that may be from old MI, although no old echo is
   available for comparison.  EKG [**6-14**] depressions in I and
   V3-V6.
   - supplemental O2
   - Hold ASA today due to concern about GI bleeding
   - statin
   - B-blocker
   - diuresis to reduce preload
   .
   # Hyperglycemia:  The patient has known diabetes, likely exacerbated by
   infection/stress.  Blood sugars elevated to 500s-600s on admission,
   controlled with insulin drip, and then with lantus and ISS.  BS 141 to
   214 during past 24 hours.  Received 11 units of regular insulin plus 7
   units of lantus during past 24 hours.
   - monitor blood sugars QID
   - With hyperglycemia and resumption of tube feeds will likely need to
   adjust lantus this evening.
   - holding patient
s home oral hypoglycemics while in hospital
   .
   # Hypercalcemia:  Ionized Ca mildly elevated.  Unclear etiology, given
   h/o prostate ca concern for metastatic lesions.  Bony abnormality on
   abdominal CT read as bony island.  Also consider hyperparathyroidism.
   -          No further work-up at this time, but make sure patient
   receives appropriate follow-up care.
   # Code: After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   # Communication: Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h) [**Telephone/Fax (1) 1663**],
   (other c) [**Telephone/Fax (1) 1664**].
   # Dispo: ICU pending improvement.
   ICU Care
   Nutrition:  Resume tube feeds today per nutrition recommendations.
   Glycemic Control:  As above, under hyperglycemia.
   Lines:
   PICC Line - [**2148-8-12**] 12:45 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: change PO H2 blocker to IV PPI in the setting of possible
   GI bleeding.
   VAP:
   Comments:
   Communication:  Comments:  As above.
   Code status:  DNR / DNI.  After lengthy discussions with son and HCP
   [**Name (NI) 1412**], patient over-all DNR/DNI and in the event of an emergency with
   rapid/acute deterioration would not resuscitate him or intubate him,
   however, if slow decline and not tolerating NIPPV family would consider
   trial intubation.
   Disposition:  To MICU for now.
   13:00

2148-08-17 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tube Feeds restarted
   Allergies:
   Phenytoin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-16**] 10:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-8-17**] 03:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-8-16**] 12:30 PM
   Furosemide (Lasix) - [**2148-8-16**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2148-8-17**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-17**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 76 (66 - 104) bpm
   BP: 92/67(71) {80/36(52) - 125/106(110)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 68 Inch
    Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                  2,776 mL
                                                                    400 mL
   PO:
   TF:
                                                                    150 mL
                                                                    178 mL
   IVF:
                                                                  1,491 mL
                                                                    176 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,520 mL
                                                                    285 mL
   Urine:
                                                                  2,520 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen:  NAD.  Sleepy.  Not coughing during exam.
   HEENT:  Anicteric.  PERRL.  Moist oral mucosa.
   Resp:  Diffuse rhonchi bilaterally, L>R.
   CV:  Irregular rhythm.  Normal rate.  Distant heart sounds.
   Abd:  Bowel sounds not heard.  Distended.  Non-tender.  PEG in place
   with clean dressing.
   Ext:  Dressing in place of left wrist.  Skin breakdown on left elbow.
   Trace left extremity edema.
   Neuro:  More sleepy than usual.  Speech sparse but normal.  Says he
   does not know where he is, but correctly identifies
hospital
 from
   multiple choice.  Cannot state name of hospital.  Correctly identifies
[**Month (only) 539**]
 as month from multiple choice.  Cannot identify year.  Can
   state his name and his son
s name.  Moves right upper and lower
   extremities.  Very weak on left, chronic.
   Lines:  Foley in place with yellow urine in bag.  Right PICC.  Mushroom
   catheter with dark stool in bag ?melena.
   Labs / Radiology
   190 K/uL
   9.1 g/dL
   158 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   24 mg/dL
   106 mEq/L
   139 mEq/L
   26.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2148-8-14**]  01:30 AM
                             [**2148-8-14**]  02:52 PM
                             [**2148-8-14**]  10:21 PM
                             [**2148-8-15**]  04:00 AM
                             [**2148-8-15**]  03:50 PM
                             [**2148-8-15**]  09:56 PM
                             [**2148-8-16**]  05:51 AM
                             [**2148-8-16**]  10:55 AM
                             [**2148-8-16**]  02:36 PM
                             [**2148-8-17**]  03:52 AM
   WBC
   15.7
   15.2
   14.3
   13.4
   Hct
   28.1
   26.6
   26.6
   23.6
   28.1
   27.8
   27.4
   26.6
   Plt
   [**Telephone/Fax (3) 1886**]90
   Cr
   1.0
   1.0
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   Glucose
   179
   345
   178
   147
   162
   119
   121
   158
   Other labs: PT / PTT / INR:12.7/32.3/1.1, CK / CKMB /
   Troponin-T:71/8/0.58, ALT / AST:39/65, Alk Phos / T Bili:75/0.4,
   Amylase / Lipase:107/20, Differential-Neuts:83.4 %, Lymph:9.8 %,
   Mono:3.9 %, Eos:2.7 %, Fibrinogen:692 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:3.7 g/dL, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo man with CVA, dysphagia on TF via PEG, CAD, prostate CA, admitted
   to MICU with PEG dysfunction, hypoxemic respiratory failure, cardiac
   ischemia, elevated lactate.  PEG was dislodged and reinserted 2 days
   PTA.  It seems that this resulted in gastric outlet obstruction, with
   subsequent vomiting 1 day PTA, and evolving pneumonia, complicated by
   severe sepsis and cardiac ischemia.  Infection improving.  Active
   issues include pneumonia, volume overload, intermittent hypotension,
   cardiac ischemia, and possible slow GI bleed.
   # Hypotension:  Patient developed transient hypotension to SBP mid to
   upper 70s yesterday evening [**8-15**] at around 11 p.m.  Urine output
   decreased to <30cc/hr for 2 hours, then picked up again.  DDx includes
   intravascular volume depletion, recurrent sepsis, cardiac dysfunction,
   and beta-blockade.  BP responsive to fluid + blood.  Decreased
   metoprolol to 25 mg [**Hospital1 7**], with holding parameters.  Currently
   normotensive.
   -          Consider untreated C. diff infection as explained below
   under
diarrhea
   -          Treat recurrent hypotension cautiously with blood or IVF.
   However, try to avoid volume overload, as this could compromise
   patient
s respiratory status.
   .
   # Volume overload:  Patient has significant vascular congestion on CXR
   and worsened rhonchi on exam.  The patient was positive 1755 mL
   yesterday.  Could not diurese yesterday due to low BP, but today, BP
   appears to leave room for cautious diuresis.
   -          Diuresis with Lasix 20 mg IV as blood pressure tolerates,
   with goal diuresis 1 L negative today.
   -          Check p.m. lytes.
   -          Give KCl 20 mg via PEG in setting of K 3.9 and anticipated
   drop in K with Lasix.
   .
   # Anemia:  Consider GI bleeding in the setting of slowly falling Hct,
   guaiac-positive stools, and recent dysfunction/manipulation of PEG
   tube.  Transfused 1 unit yesterday for Hct 23.6 with good response in
   Hct.
   -          Check p.m. hematocrit.
   -          Check coags.
   -          Transfuse for Hct < 25.
   -          Maintain active type and screen.
   -          Change H2 blocker to IV PPI in the setting of possible
   active GI bleeding.
   -          Attempt conservative management.  However, consider GI
   consult if Hct continue to fall.
   .
   # PEG tube dysfunction:  Initially, there was copious dark red fluid
   draining about PEG tube with bilious non-bloody fluid lavaged through
   lumen of tube.  Consulted surgery, who felt that the PEG was causing
   gastric outlet obstruction.  Surgery relieved the obstruction by
   pulling back on tube, with resolution of the discharge.  On [**6-12**] and
   [**6-13**], there was bloody discharge around the tube.  The tube was
   replaced by interventional radiology on the evening of [**6-13**].  Per IR,
   it is okay to use the tube but should not manipulate.  Began tube feeds
   yesterday [**6-14**], but stopped feeds in the setting of hypotension.  Will
   restart feeds today despite concern about GI bleeding.
   - tube feeds per nutrition recs
   - can give meds via PEG
   - if PEG tube dysfunction recurs, consult surgery/IR for further
   evaluation/treatment.
   - Evaluate possible GI bleeding as explained under
anemia
   .
   # Diarrhea:  The patient has had diarrhea, guiaic positive, for around
   3 days now.  In the setting of broad-spectrum antibiotics, will need to
   r/o C. diff.  Blood in stool most likely due to G-tube
   dysfunction/repositioning.
   -          Test for C. diff.
   .
   # Hypoxemic respiratory distress:  Contributing factors include
   aspiration PNA and pulmonary edema from CHF.  Satting well on face
   mask.  Avoiding NIPPV in the setting of copious respiratory secretions,
   history of vomiting, and aspiration risk.  DNR/DNI, although family
   would consider intubation if pure respiratory failure without other
   organ dysfunction.
   - Monitor respiratory status
   - Supplemental O2 via face mask/nasal cannula as tolerated
   - Chest PT
   - antibiotics as below
   - diuresis as above
   .
   # Pneumonia:  Clinical exam and imaging consistent with LLL pneumonia,
   likely due to aspiration.  Fever has resolved, with leukocytosis
   slightly improved today at 14.3.  Patient initially met criteria for
   severe sepsis, with elevated lactate and signs of end-organ dysfunction
   involving cardiac ischemia.  Legionella urinary antigen negative.
   Sputum culture [**8-15**] had extensive contamination with upper respiratory
   secretions.  Blood cultures x 3 PND.
   -          abx: vanco, zosyn
 14-day course
   -          f/u blood cx x 3
   -          monitor vital signs, UOP, renal function, mental status.
   .
   # ?UTI:  Three urinalyses have had significant numbers of WBCs and
   RBCs, although the first urine culture was suggestive of contamination,
   and the second culture, sent after broad spectrum antibiotics had been
   initiated, was negative.  A third urine culture was sent yesterday
   evening [**8-15**] in the setting of hypotension.
   -          abx: vanco, zosyn, to also cover for HAP.
   -          f/u urine cx
   .
   # Tachycardia
 The patient has had SVT (likely atrial tachycardia)
   with HR as high as 170, although well-controlled with metoprolol
   recently.  Will decrease dose of metoprolol given recent hypotension.
   -          Metoprolol 25 mg PO BID.
   -          Monitor heart rate, rhythm, and BP.
   .
   # Acute cardiac ischemia: Suspect demand ischemia in the setting of
   high demand with known CAD.  Troponins have trended down (most recently
   0.58 on [**6-11**], down from peak 1.72 on [**6-10**]).  TTE showed focal wall
   motion abnormalities that may be from old MI, although no old echo is
   available for comparison.  EKG [**6-14**] depressions in I and
   V3-V6.
   - supplemental O2
   - Hold ASA today due to concern about GI bleeding
   - statin
   - B-blocker
   - diuresis to reduce preload
   .
   # Hyperglycemia:  The patient has known diabetes, likely exacerbated by
   infection/stress.  Blood sugars elevated to 500s-600s on admission,
   controlled with insulin drip, and then with lantus and ISS.  BS 141 to
   214 during past 24 hours.  Received 11 units of regular insulin plus 7
   units of lantus during past 24 hours.
   - monitor blood sugars QID
   - With hyperglycemia and resumption of tube feeds will likely need to
   adjust lantus this evening.
   - holding patient
s home oral hypoglycemics while in hospital
   .
   # Hypercalcemia:  Ionized Ca mildly elevated.  Unclear etiology, given
   h/o prostate ca concern for metastatic lesions.  Bony abnormality on
   abdominal CT read as bony island.  Also consider hyperparathyroidism.
   -          No further work-up at this time, but make sure patient
   receives appropriate follow-up care.
   # Code: After lengthy discussions with son and HCP [**Name (NI) 1412**], patient
   over-all DNR/DNI and in the event of an emergency with rapid/acute
   deterioration would not resuscitate him or intubate him, however, if
   slow decline and not tolerating NIPPV family would consider trial
   intubation.
   # Communication: Patient, son [**Name (NI) 1412**] (c) [**Telephone/Fax (1) 1662**], (h) [**Telephone/Fax (1) 1663**],
   (other c) [**Telephone/Fax (1) 1664**].
   # Dispo: ICU pending improvement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2148-8-17**] 03:57 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2148-8-12**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: